datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[O:1])([H:2])[H:3].[C:4][H:5]>>[C:0](=[O:1])[H:3].[H:2][C:4][H:5],-2.16
[C:0]([C:1]([O:2])([C:3]([O:4][O:5][H:14])([H:12])[H:13])[C:6]([O:7][O:8][H:17])([H:15])[H:16])([H:9])([H:10])[H:11]>>[C:0]([H:9])([H:10])[H:11].[C:1](=[O:2])([C:3]([O:4][O:5][H:14])([H:12])[H:13])[C:6]([O:7][O:8][H:17])([H:15])[H:16],124.80872
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[C:14]([C:15](=[C:16]([H:20])[H:21])[H:19])([H:17])[H:18]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6].[H:7][C:14]([C:15](=[C:16]([H:20])[H:21])[H:19])([H:17])[H:18],69.4544
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11]([C:12]([H:24])([H:25])[H:26])=[C:13]([C:14]([H:27])([H:28])[H:29])[c:15]1[c:16]([H:30])[c:17]([H:31])[c:18]([H:32])[c:19]([H:33])[c:20]1[H:34])[H:23])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:11]([C:10](=[C:9]([H:21])[H:22])[H:23])([C:12]([H:24])([H:25])[H:26])[C:13]([C:14]([H:27])([H:28])[H:29])[c:15]1[c:16]([H:30])[c:17]([H:31])[c:18]([H:32])[c:19]([H:33])[c:20]1[H:34])[H:4],41.2961
[C:0]([C:1](=[C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])[H:9])[H:8])([H:5])([H:6])[H:7].[O:15]>>[C:0]([C:1](=[C:2]([C:3]([C:4]([H:13])[H:14])([H:10])[H:11])[H:9])[H:8])([H:5])([H:6])[H:7].[H:12][O:15],19.874
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6](=[C:7]([C:8]([C:9]([H:14])([H:15])[H:16])[C:10]([H:17])([H:18])[H:19])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([H:4])[H:5])[H:3].[H:2][C:8]([C:7](=[C:6]([H:11])[H:12])[H:13])([C:9]([H:14])([H:15])[H:16])[C:10]([H:17])([H:18])[H:19],107.529
[C:0](=[C:1]([C:2]([O:3][H:9])([H:7])[H:8])[H:6])([H:4])[H:5].[C:10]([H:11])([H:12])[H:13]>>[C:0](=[C:1]([C:2]([O:3][C:10]([H:11])([H:12])[H:13])([H:7])[H:8])[H:6])([H:4])[H:5].[H:9],174.219
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:16])([H:14])[H:15])([H:12])[H:13])([O:6][O:7])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:16])[H:15])([H:12])[H:13])([O:6][O:7][H:14])[H:11])([H:8])([H:9])[H:10],83.2616
[C:0](=[C:1]1[C:2]([H:8])=[C:3][C:4]([H:9])([H:10])[C:5]1([H:11])[H:12])([H:6])[H:7]>>[C:0](=[C:1]1[C:2]([H:8])=[C:3]([H:9])[C:4]([H:10])[C:5]1([H:11])[H:12])([H:6])[H:7],164.8496
[C:0](=[C:1]=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10].[C:17](=[C:18]([C:19]([C:20]([H:26])([H:27])[H:28])[C:21](=[C:22]([H:30])[H:31])[H:29])[H:25])([H:23])[H:24]>>[C:0](=[C:1][C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])([H:11])[C:19]([C:18](=[C:17]([H:23])[H:24])[H:25])([C:20]([H:26])([H:27])[H:28])[C:21](=[C:22]([H:30])[H:31])[H:29])([H:9])[H:10],82.6758
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[H:8]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][H:8],31.50552
[C:0]([C:1]([O:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[Cl:9]>>[C:0]([C:1]([O:2][H:8])([H:6])[H:7])([H:4])[H:5].[H:3][Cl:9],-0.374151
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[H:11].[C:21](#[C:22][C:23]([C:24]([H:27])([H:28])[H:29])[H:26])[H:25]>>[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])([H:15])[C:23]([C:22]#[C:21][H:25])([C:24]([H:27])([H:28])[H:29])[H:26])[H:11],35.3548
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[C:5]([H:14])[H:15])[H:13])[H:9])[H:8])([H:6])[H:7].[C:16](=[C:17]=[C:18]([H:20])[H:21])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[C:5]([H:14])[H:15])[H:13])[H:8])([H:6])[H:7].[H:9][C:16](=[C:17]=[C:18]([H:20])[H:21])[H:19],41.7563
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7](=[C:8]([C:9]([C:10]([H:15])([H:16])[H:17])[H:14])[H:13])([H:11])[H:12]>>[C:0]([C:1]=[C:2]([H:5])[H:6])([H:3])([H:4])[C:9]([C:8](=[C:7]([H:11])[H:12])[H:13])([C:10]([H:15])([H:16])[H:17])[H:14],51.254
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:12])[H:11].[C:21]([C:22]([C:23]([H:28])([H:29])[H:30])[H:27])([H:24])([H:25])[H:26]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[C:22]([C:21]([H:24])([H:25])[H:26])([C:23]([H:28])([H:29])[H:30])[H:27])[H:12])[H:11],19.7066
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:8].[C:18]([C:19]([H:22])([H:23])[H:24])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([C:5]([H:12])([H:13])[H:14])([C:6](=[C:7]([H:16])[H:17])[H:15])[C:18]([C:19]([H:22])([H:23])[H:24])([H:20])[H:21])[H:8],17.6146
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7](=[C:8]([C:9]([S:10][H:15])[H:14])[H:13])([H:11])[H:12]>>[C:0](=[C:1]=[C:2]([H:5])[H:6])[H:4].[H:3][C:9]([C:8](=[C:7]([H:11])[H:12])[H:13])([S:10][H:15])[H:14],64.0152
